US06562828B1
2-[4-(Pyrrolidin-3-yloxy)phenoxymethyl]-1-(2-methoxyethyl)benzimidazole-5-carboxamidine Dihydrochloride
To a solution of 2-[4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)-phenoxymethyl]-1-(2-methoxyethyl)benzimidazole-5-carboxamidine (115 mg) in chloroform (3 ml) was added trifluoroacetic acid (3 ml), and the mixture was stirred at 5 min. The solvent was evaporated and to the obtained residue was added 1N hydrogen chloride-diethyl ether (2 ml). The solvent was evaporated and the obtained residue was washed with tetrahydrofuran and dried under reduced pressure to give the title compound (97 mg).

reactant | 2-[4-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)-phenoxymethyl]-1-(2-methoxyethyl)benzimidazole-5-carboxamidine | 115 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=CC=C(OCC2=NC3=C(N2CCOC)C=CC(=C3)C(=N)N)C=C1 | C27H35N5O5
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(Pyrrolidin-3-yloxy)phenoxymethyl]-1-(2-methoxyethyl)benzimidazole-5-carboxamidine Dihydrochloride | 97 mg | Cl.Cl.N1CC(CC1)OC1=CC=C(OCC2=NC3=C(N2CCOC)C=CC(=C3)C(=N)N)C=C1 | InChI=1S/C22H27N5O3.2ClH/c1-28-11-10-27-20-7-2-15(22(23)24)12-19(20)26-21(27)14-29-16-3-5-17(6-4-16)30-18-8-9-25-13-18;;/h2-7,12,18,25H,8-11,13-14H2,1H3,(H3,23,24);2*1H
